US08293715B2
Synthesis of 3-(piperidin-1-yl)phenol
3-Aminophenol (500 mg) was dissolved in toluene (5.0 ml), the solution was added with sodium hydrogencarbonate (846.5 mg) and 1,5-dibromopentane (686.3 μl) at room temperature, and the mixture was stirred for 16 hours under reflux by heating. The reaction mixture was cooled, and then added with distilled water and ethyl acetate for extraction, and the organic layer was dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to obtain the title compound (513 mg).

reactant | 3-Aminophenol | 500 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | sodium hydrogencarbonate | 846.5 mg | C(O)([O-])=O.[Na+]
reactant | 1,5-dibromopentane | 686.3 μl | BrCCCCCBr | C5H10Br2
reactant | water | O | H2O
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(piperidin-1-yl)phenol | 513 mg | N1(CCCCC1)C=1C=C(C=CC1)O | C11H15NO
